US09101616B2
(1S*,2S*)-2-(3-((3-methyloxetan-3-yl)methoxy)phenyl)-N-((R)-1-(5-(2,2,2-trifluoroe thoxy)pyridin-2-yl)ethyl)cyclopropanecarboxamide
A mixture of (1S*,2S*)-2-(3-hydroxyphenyl)-N-((R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)cyclopropanecarboxamide (15 mg, 0.039 mmol), 3-(Chloromethyl)-3-methyloxetane (24 mg, 0.197 mmol) and potassium carbonate (27 mg, 0.197 mmol) in DMF (2 mL) was heated at 70° C. with stirring for 15 hours. The mixture was poured into water, and the aqueous layer was extracted with ethyl acetate, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by preparative LC-MS to give 8.9 mg (49% yield) of the title compound.

reactant | (1S*,2S*)-2-(3-hydroxyphenyl)-N-((R)-1-(5-(2,2,2-trifluoroethoxy)pyridin-2-yl)ethyl)cyclopropanecarboxamide | 0.039 mmol, 15 mg | OC=1C=C(C=CC1)[C@@H]1[C@H](C1)C(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C19H19F3N2O3
reactant | 3-(Chloromethyl)-3-methyloxetane | 0.197 mmol, 24 mg | ClCC1(COC1)C | C5H9ClO
reactant | potassium carbonate | 0.197 mmol, 27 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (1S*,2S*)-2-(3-((3-methyloxetan-3-yl)methoxy)phenyl)-N-((R)-1-(5-(2,2,2-trifluoroe thoxy)pyridin-2-yl)ethyl)cyclopropanecarboxamide | 8.9 mg, 49% yield | CC1(COC1)COC=1C=C(C=CC1)[C@@H]1[C@H](C1)C(=O)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | C24H27F3N2O4
